US09108921B2
Step B: tert-butyl 4-((benzyloxy)methoxy)-4-(3-hydroxy-2-methylpropyl)piperidine-1-carboxylate (45C)
To a solution of tert-butyl 4-((benzyloxy)methoxy)-4-(2-methylallyl)piperidine-1-carboxylate (3.05 g, 8.1 mmol) in THF (50 mL) was added BH3 solution in THF (32 mL, 1 mol/L, 32.4 mmol), and the mixture was stirred at room temperature for 16 hrs. Then 30% H2O2 solution (30 mL) and 10% sodium hydroxide solution (50 mL) were added slowly to the mixture, and the mixture was stirred for another 2 hrs. The mixture was then treated with water (10 mL) and extracted with EtOAc (3×20 mL). The combined organic extracts were dried over Na2SO4 and the solvent was removed in vacuo. The residue was purified by a standard method to give the product (1.97 g). LC-MS: m/z 394.5 (M+H)+

reactant | tert-butyl 4-((benzyloxy)methoxy)-4-(2-methylallyl)piperidine-1-carboxylate | 8.1 mmol, 3.05 g | C(C1=CC=CC=C1)OCOC1(CCN(CC1)C(=O)OC(C)(C)C)CC(=C)C | C22H33NO4
reactant | H2O2 | 30 mL | OO | H2O2
reactant | sodium hydroxide | 50 mL | [OH-].[Na+]
reactant | water | 10 mL | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 32.4 mmol, 1 mol/L, 32 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-((benzyloxy)methoxy)-4-(3-hydroxy-2-methylpropyl)piperidine-1-carboxylate | 1.97 g | C(C1=CC=CC=C1)OCOC1(CCN(CC1)C(=O)OC(C)(C)C)CC(CO)C | C22H35NO5
